US07919508B2
Scheme B, Step B6: (1R,3S)-6-Methyl-1-methylaminomethyl-3-(1-phenethyl-piperidin-4-yl)-isochroman-5-ol dihydrochloride
Cool a solution of (1R,3S) [5-Isopropoxy-6-methyl-3-(1-phenethyl-piperidin-4-yl)-isochroman-1-ylmethyl]-methyl-amine in anhydrous dichloromethane (4 mL) to −20° C., and add 6 equivalents of BCl3 (using 1M BCl3 in dichloromethane) slowly into the solution. Following complete addition, stir the reaction mixture at −20° C. for 2 hours and 0° C. for 1 hour. Cool again to −20° C. and quench with anhydrous CH3OH (0.5 mL). Allow the resulting solution to warm to room temperature and concentrate. Purify the crude product on a 2 g SCX column and then by chromatography on a 1 g silica gel column (eluted by 7N NH3 in methanol:ethyl acetate=1:10). Collect and concentrate the appropriate fractions and treat with 2M HCl in diethyl ether to obtain the title compound. CIMS 395.4 (MH+), tR (min)=2.17.

reactant | (1R,3S) [5-Isopropoxy-6-methyl-3-(1-phenethyl-piperidin-4-yl)-isochroman-1-ylmethyl]-methyl-amine | C(C)(C)OC1=C2C[C@H](O[C@H](C2=CC=C1C)CNC)C1CCN(CC1)CCC1=CC=CC=C1 | C28H40N2O2
reactant | BCl3 | 1M, 6 equivalents | B(Cl)(Cl)Cl | BCl3
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | (1R,3S)-6-Methyl-1-methylaminomethyl-3-(1-phenethyl-piperidin-4-yl)-isochroman-5-ol dihydrochloride | Cl.Cl.CC1=C(C=2C[C@H](O[C@H](C2C=C1)CNC)C1CCN(CC1)CCC1=CC=CC=C1)O | InChI=1S/C25H34N2O2.2ClH/c1-18-8-9-21-22(25(18)28)16-23(29-24(21)17-26-2)20-11-14-27(15-12-20)13-10-19-6-4-3-5-7-19;;/h3-9,20,23-24,26,28H,10-17H2,1-2H3;2*1H/t23-,24-;;/m0../s1
